US06432957B1
Synthesis of N-(9-fluorenylmethoxycarbonyl)-L-valyl-N-(benzyl)glycine ethyl ester
N-(9-Fluorenylmethoxycarbonyl)-L-valine (1.0 g) was dissolved in a mixed solvent of dichloromethane (10 mL) and DMF (0.1 mL), and to the solution oxalyl chloride (374 mg) was added dropwise at 0° C. The mixture was stirred for 30 minutes and added dropwise into a solution of N-(benzyl)glycine ethyl ester (587 mg) and triethylamine (477 mg) in dichloromethane (10 mL) at 0° C. The resultant mixture was stirred at room temperature for 2 hours, and the reaction mixture was concentrated under reduced pressure. Ethyl acetate was added to the residue, and the mixture was washed with water and saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (n-hexane:ethyl acetate=3:1) to obtain the title compound.

reactant | N-(9-Fluorenylmethoxycarbonyl)-L-valine | 1.0 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](C(C)C)C(=O)O | C20H21NO4
reactant | oxalyl chloride | 374 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-(benzyl)glycine ethyl ester | 587 mg | C(C)OC(CNCC1=CC=CC=C1)=O | C11H15NO2
reactant | triethylamine | 477 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-(9-fluorenylmethoxycarbonyl)-L-valyl-N-(benzyl)glycine ethyl ester | C(C)OC(CN(CC1=CC=CC=C1)C([C@@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(C)C)=O)=O | C31H34N2O5
